US07482462B2
10 ml of 1M aqueous NaOH are added to a solution of 3-ethoxycarbonylmethyl-9-aza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester in 20 ml of THF and the mixture obtained is stirred at RT. To the mixture obtained 10 ml of brine and 70 ml of EtAc are added, and the mixture obtained is washed with 1M aqueous HCl. The organic layer obtained is dried and solvent is evaporated. 3-Carboxymethyl-9-aza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester in the form of an oil is obtained. 13C-NMR: 178.47, 177.28, 155.61, 154.50, 79.70, 79.63, 47.39, 45.88, 43.39, 40.31, 36.92, 32.22, 31.98, 31.37, 30.99, 30.74, 30.64, 30.08, 29.59, 29.20, 21.15, 20.60, 14.05.

reactant | NaOH | 1M, 10 ml | [OH-].[Na+]
reactant | 3-ethoxycarbonylmethyl-9-aza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CC(CC1CCC2)CC(=O)OCC | C17H29NO4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | brine | 10 ml | [Cl-].[Na+].O
product | 3-Carboxymethyl-9-aza-bicyclo[3.3.1]nonane-9-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2CC(CC1CCC2)CC(=O)O | C15H25NO4
